US09403833B2
Step 2: 1-Azido-2-chloro-4-cyclopropylbenzene
2-Chloro-4-cyclopropylaniline (70 g, 418 mmol) was dissolved in Me-THF (2090 mL) and cooled to 0° C. in an ice bath. t-Butyl nitrite (59.8 mL, 501 mmol) was added slowly and TMSN3 (66.5 mL, 501 mmol) dropwise. The mixture was stirred at 0° C. for 30 min and gradually allowed to warm up to RT and stirred for 2 hrs. To the resulting mixture was added sat. NaHCO3 (aq) (250 mL) slowly under cooling, followed by water (250 mL). The mixture was transferred to a separating funnel and washed with water (1.5 L), dried over Na2SO4 and filtered to give the title compound which was used in the next step without further purification; HPLC Method D: Rt 5.63 mins;

reactant | 2-Chloro-4-cyclopropylaniline | 418 mmol, 70 g | ClC1=C(N)C=CC(=C1)C1CC1 | C9H10ClN
reactant | t-Butyl nitrite | 501 mmol, 59.8 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | TMSN3 | 501 mmol, 66.5 mL | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | NaHCO3 | 250 mL | C(=O)(O)[O-].[Na+]
solvent | water | 250 mL | O | H2O
product | 1-Azido-2-chloro-4-cyclopropylbenzene | N(=[N+]=[N-])C1=C(C=C(C=C1)C1CC1)Cl | C9H8ClN3
